US04276304
1.16 g of 2-benzyloxyphenylglyoxal hydrate are dissolved in one ml of dimethylsulfoxide, and a solution of 0.78 g of α,α-dimethyl-4-methoxyphenethylamine in 1.5 ml of dimethylsulfoxide is added thereto. The mixture is stirred at 23° C. for one hour, whereby a solution of α-(α,α-dimethyl-4-methoxyphenethylimino)-2-benzyloxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 1.16 g | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-4-methoxyphenethylamine | 0.78 g | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
solvent | dimethylsulfoxide | one ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-4-methoxyphenethylimino)-2-benzyloxyacetophenone | CC(CC1=CC=C(C=C1)OC)(C)N=C(C(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C26H27NO3
